US07531532B2
3-[6-(4-Aminophenoxy)pyrimidin-4-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea
After adding 20% palladium hydroxide-carbon (51.8 mg) to a solution of 1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-[6-(4-nitrophenoxy)pyrimidin-4-yl]urea (131 mg) in tetrahydrofuran (10.0 ml), the mixture was stirred for 10.5 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered and the then washed with methanol. The filtrate was concentrated to provide a crude product of the title compound (122 mg) as a yellow oil.

reactant | 1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-[6-(4-nitrophenoxy)pyrimidin-4-yl]urea | 131 mg | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C)C | C21H29N7O4
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 51.8 mg | [OH-].[Pd+2].[OH-].[C]
product | 3-[6-(4-Aminophenoxy)pyrimidin-4-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 122 mg | NC1=CC=C(OC2=CC(=NC=N2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C21H31N7O2
